US07645755B2
b) 1-Methyl-4-(2 ′-methyl-6-nitro-biphenyl-3-yl)-piperazine
A mixture of 200mg (0.666 mmol) 1-(3-bromo-4-nitro-phenyl)-4-methyl-piperazine (as prepared in the previous step), 136 mg (0.999 mmol) and 77.0 mg (0.0666 mmol) of tetrakis(triphenylphosphine)palladium (0) under Ar was added 4.0 mL of degassed dimethoxyethane (DME) and 400 μL (0.799 mmol) of 2.0 M aq Na2CO3. The mixture was heated with stirring under Ar at 80° C. for 14 h. The cooled (RT) mixture was concentrated and chromatographed on a 10-g silica SPE column with 1-5% MeOH in dichloromethane-hexane (1:1). The product fractions were treated with 80 mg of decolorizing carbon, filtered, concentrated, and then rechromatographed on a similar column with 1-3% EtOH-dichloromethane to afford 265 mg of the title compound as a yellow resin (75% purity by 1H-NMR as a mixture with triphenylphosphine) that was used in the following reaction without further purification: Mass spectrum (ESI, m/z): Calcd. for C11H21N3O3, 312.2 (M+H), found 312.2.

reactant | 1-(3-bromo-4-nitro-phenyl)-4-methyl-piperazine | 0.666 mmol, 200mg | BrC=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C | C11H14BrN3O2
reactant | Na2CO3 | 0.799 mmol, 2.0 M, 400 μL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | dimethoxyethane | 4.0 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.0666 mmol, 77.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-Methyl-4-(2 ′-methyl-6-nitro-biphenyl-3-yl)-piperazine | 265 mg | CN1CCN(CC1)C=1C=C(C(=CC1)[N+](=O)[O-])C1=C(C=CC=C1)C | C18H21N3O2
